US09169254B2
4-{2-[4-(3-Benzyloxy-5-trifluoromethyl-benzoylamino)-4-carbamoyl-piperidine-1-sulfonyl]-ethyl}-3-methyl-benzoic acid tert-butyl ester (1.23 g, 1.75 mmol) was dissolved in methanol (17.5 ml). A 1 M aqueous sodium hydroxide solution (1.75 ml, 1.75 mmol) was added and the mixture was stirred at 60° C. for six hours. After completion of the reaction, the reaction solution was left to cool and an aqueous ammonium chloride solution was added, followed by extraction with ethyl acetate. The organic layer was washed with saline, dried over anhydrous magnesium sulfate and then concentrated under reduced pressure. The residue obtained by concentration was purified by column chromatography (hexane:ethyl acetate) to give 4-{2-[2-(3-benzyloxy-5-trifluoromethyl-phenyl)-4-oxo-1,3,8-triaza-spiro[4.5]dec-1-ene-8-sulfonyl]-ethyl}-3-methyl-benzoic acid tert-butyl ester as a pale yellow amorphous (952.1 mg, yield in two steps: 79.3%).

reactant | 4-{2-[4-(3-Benzyloxy-5-trifluoromethyl-benzoylamino)-4-carbamoyl-piperidine-1-sulfonyl]-ethyl}-3-methyl-benzoic acid tert-butyl ester | 1.75 mmol, 1.23 g | C(C)(C)(C)OC(C1=CC(=C(C=C1)CCS(=O)(=O)N1CCC(CC1)(C(N)=O)NC(C1=CC(=CC(=C1)C(F)(F)F)OCC1=CC=CC=C1)=O)C)=O | C35H40F3N3O7S
reactant | sodium hydroxide | 1.75 mmol, 1 M, 1.75 ml | [OH-].[Na+]
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | methanol | 17.5 ml | CO | CH4O
product | 4-{2-[2-(3-benzyloxy-5-trifluoromethyl-phenyl)-4-oxo-1,3,8-triaza-spiro[4.5]dec-1-ene-8-sulfonyl]-ethyl}-3-methyl-benzoic acid tert-butyl ester | C(C)(C)(C)OC(C1=CC(=C(C=C1)CCS(=O)(=O)N1CCC2(C(NC(=N2)C2=CC(=CC(=C2)C(F)(F)F)OCC2=CC=CC=C2)=O)CC1)C)=O | C35H38F3N3O6S
